data/polar.json
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:16])([O:29][CH2:3][c:13]1[cH:19][cH:6][cH:10][cH:9][cH:22]1)[N:32]=[N:31][C:2](=[O:17])[O:30][CH2:4][c:14]1[cH:20][cH:7][cH:11][cH:8][cH:21]1.[cH:5]1[cH:23][cH:15][c:27]2[c:12]([cH:33]1)[CH:34]([Zn-:26]([Cl:24])[Cl:25])[CH:28]=[CH:18]2>>[C:1]([O-:16])([O:29][CH2:3][c:13]1[cH:19][cH:6][cH:10][cH:9][cH:22]1)=[N:32][N:31]([C:2](=[O:17])[O:30][CH2:4][c:14]1[cH:20][cH:7][cH:11][cH:8][cH:21]1)[CH:34]1[c:12]2[c:27]([cH:15][cH:23][cH:5][cH:33]2)[CH:18]=[CH:28]1.[Cl:24][Zn:26][Cl:25]", "epd": [["Sigma-/Sigma+", [34, 26], [34, 31]], ["Pi-/Pi+", [31, 32], [32, 1]], ["Pi-/LP+", [1, 16], [16]]]}
{"reaction_name": "Silylation of amines", "rsmi": "[Cl:2][Si:7]([CH3:4])([CH3:5])[CH3:6].[NH:1]([CH3:3])[H:8]>>[Cl:2][H:8].[NH:1]([CH3:3])[Si:7]([CH3:4])([CH3:5])[CH3:6]", "epd": [["LP-/Sigma+", [1], [1, 7]], ["Sigma-/LP+", [2, 7], [2]], ["LP-/Sigma+", [2], [2, 8]], ["Sigma-/LP+", [1, 8], [1]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:13]1[N+:19](=[CH:7][CH:37]=[CH:14][c:26]2[cH:8][cH:21][cH:6][cH:22][cH:9]2)[CH:18]([CH2:38][c:31]2[cH:40][cH:15][cH:23][cH:16][cH:41]2)[C:25](=[O:10])[N:34]1[CH3:24])([CH3:27])([CH3:28])[CH3:29].[CH:1]1([C:4](=[O:30])[O:42][CH3:11])[CH2:12][CH2:35][CH2:32][N:39]1[C:33]1=[CH:17][CH2:3][CH2:36][CH2:20][CH2:5]1>>[CH:1]1([C:4](=[O:30])[O:42][CH3:11])[CH2:12][CH2:35][CH2:32][N+:39]1=[C:33]1[CH2:5][CH2:20][CH2:36][CH2:3][CH:17]1[CH:14]([c:26]1[cH:8][cH:21][cH:6][cH:22][cH:9]1)[CH:37]=[CH:7][N:19]1[CH:13]([C:2]([CH3:27])([CH3:28])[CH3:29])[N:34]([CH3:24])[C:25](=[O:10])[CH:18]1[CH2:38][c:31]1[cH:40][cH:15][cH:23][cH:16][cH:41]1", "epd": [["LP-/Pi+", [39], [33, 39]], ["Pi-/Sigma+", [17, 33], [17, 14]], ["Pi-/Pi+", [14, 37], [37, 7]], ["Pi-/LP+", [7, 19], [19]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]([C:11](=[O:14])[c:17]1[cH:6][cH:25][c:16]([N:24]([CH3:18])[CH3:19])[cH:26][cH:7]1)=[S:27]([CH3:8])[CH3:9].[c:2]12[c:15]([n:4][o:23][n+:22]1[O-:3])[n:13][c:10]([O:20][CH3:12])[n:5][cH:21]2>>[CH:1]([C:11](=[O:14])[c:17]1[cH:6][cH:25][c:16]([N:24]([CH3:18])[CH3:19])[cH:26][cH:7]1)([CH:21]1[c:2]2[c:15]([n:4][o:23][n+:22]2[O-:3])[N:13]=[C:10]([O:20][CH3:12])[N-:5]1)[S+:27]([CH3:8])[CH3:9]", "epd": [["Pi-/Sigma+", [1, 27], [1, 21]], ["Pi-/LP+", [21, 5], [5]]]}
{"reaction_name": "N-Glycosylation sequence", "rsmi": "[CH2:1]1[CH2:2][CH2:6][O:4][CH:5]([Cl:9])[CH2:8]1.[N:3]([CH3:7])([H:10])[H:11]>>[CH2:1]1[CH2:2][CH2:6][O:4][CH:5]([N:3]([CH3:7])[H:11])[CH2:8]1.[Cl:9][H:10]", "epd": [["LP-/Sigma+", [3], [3, 5]], ["Sigma-/LP+", [5, 9], [9]], ["LP-/Sigma+", [9], [9, 10]], ["Sigma-/LP+", [3, 10], [3]]]}
{"reaction_name": "General nucleophilic 1,2-addition to a neutral carbonyl", "rsmi": "[CH3:1][C:7](=[C:2]=[N-:10])[c:11]1[cH:12][cH:14][cH:18][cH:15][cH:13]1.[Cl:3][C:19]1=[C:21]([Cl:16])[C:6](=[O:9])[C:5](=[O:8])[C:22]([Cl:17])=[C:20]1[Cl:4]>>[CH3:1][C:7]([C:2]#[N:10])([C:5]1([O-:8])[C:6](=[O:9])[C:21]([Cl:16])=[C:19]([Cl:3])[C:20]([Cl:4])=[C:22]1[Cl:17])[c:11]1[cH:12][cH:14][cH:18][cH:15][cH:13]1", "epd": [["LP-/Pi+", [10], [2, 10]], ["Pi-/Sigma+", [7, 2], [7, 5]], ["Pi-/LP+", [5, 8], [8]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][C:28](=[CH:2][c:12]1[cH:19][cH:8][cH:36][cH:9][cH:20]1)[O:34][CH2:37][CH3:17].[O:3]=[S:33](=[O:4])([c:21]1[cH:6][cH:14][c:25]([CH3:35])[cH:15][cH:7]1)[n:26]1[cH:18][c:23]([N+:22](=[O:10])[O-:11])[c:24]2[cH:13][cH:29][c:16]([N+:32](=[O:30])[O-:31])[cH:5][c:27]21>>[O:1]=[C:28]([CH:2]([c:12]1[cH:19][cH:8][cH:36][cH:9][cH:20]1)[CH:18]1[C:23](=[N+:22]([O-:10])[O-:11])[c:24]2[cH:13][cH:29][c:16]([N+:32](=[O:30])[O-:31])[cH:5][c:27]2[N:26]1[S:33](=[O:3])(=[O:4])[c:21]1[cH:6][cH:14][c:25]([CH3:35])[cH:15][cH:7]1)[O:34][CH2:37][CH3:17]", "epd": [["LP-/Pi+", [1], [28, 1]], ["Pi-/Sigma+", [2, 28], [2, 18]], ["Pi-/Pi+", [18, 23], [23, 22]], ["Pi-/LP+", [22, 10], [10]]]}
{"reaction_name": "Grob fragmentation", "rsmi": "[Cl:1][CH2:4][CH2:2][CH:6]([O-:3])[CH3:5]>>[CH2:2]=[CH2:4].[Cl-:1].[O:3]=[CH:6][CH3:5]", "epd": [["Sigma-/Pi+", [2, 6], [2, 4]], ["LP-/Pi+", [3], [3, 6]], ["Sigma-/LP+", [1, 4], [1]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[cH:1]1[cH:7][cH:17][c:13]([N+:9](=[CH2:11])[CH3:25])[cH:18][cH:8]1.[cH:2]1[c:21]([CH:10]=[C:14]2[S:5][c:19]3[cH:15][cH:6][cH:12][cH:4][c:16]3[N:26]2[CH3:20])[cH:3][cH:23][cH:24][cH:22]1>>[cH:1]1[cH:7][cH:17][c:13]([N:9]([CH2:11][CH:10]([c:14]2[s:5][c:19]3[cH:15][cH:6][cH:12][cH:4][c:16]3[n+:26]2[CH3:20])[c:21]2[cH:2][cH:22][cH:24][cH:23][cH:3]2)[CH3:25])[cH:18][cH:8]1", "epd": [["LP-/Pi+", [26], [14, 26]], ["Pi-/Sigma+", [10, 14], [10, 11]], ["Pi-/LP+", [11, 9], [9]]]}
